US07166598B2
4N Hydrogen chloride in 1,4-dioxane solution (9 ml) was added to an ice-cooled solution of (2R)-2-(tert-butyloxycarbonylamino)-3-(4-hydroxy-3-methoxyphenyl)propionic acid benzyl ester (2.90 g) in dichloromethane (29 ml). After being stirred at the same temperature for 2 hours, the mixture was concentrated under reduced pressure to give (2R)-2-amino-3-(4-hydroxy-3-methoxyphenyl)propionic acid benzyl ester hydrochloride (2.8 g) as an oil.

reactant | Hydrogen chloride | 4N | Cl | ClH
reactant | (2R)-2-(tert-butyloxycarbonylamino)-3-(4-hydroxy-3-methoxyphenyl)propionic acid benzyl ester | 2.90 g | C(C1=CC=CC=C1)OC([C@@H](CC1=CC(=C(C=C1)O)OC)NC(=O)OC(C)(C)C)=O | C22H27NO6
solvent | 1,4-dioxane | 9 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 29 ml | ClCCl | CH2Cl2
product | (2R)-2-amino-3-(4-hydroxy-3-methoxyphenyl)propionic acid benzyl ester hydrochloride | 2.8 g | Cl.C(C1=CC=CC=C1)OC([C@@H](CC1=CC(=C(C=C1)O)OC)N)=O | InChI=1S/C17H19NO4.ClH/c1-21-16-10-13(7-8-15(16)19)9-14(18)17(20)22-11-12-5-3-2-4-6-12;/h2-8,10,14,19H,9,11,18H2,1H3;1H/t14-;/m1./s1
